US06503907B2
260 mg (1 mmol) Allyl-[4-(2,3-dihydro-1H-indol-5-yloxy)-butyl]-methyl-amine in 2.5 ml DMSO were treated with 280 mg (2 mmol) powdered K2CO3 and 480 mg (2 mmol) 1-chloro-4-iodobenzene at 130° C. for 1 h. 19.1 mg (0.1 mmol) CuI were added and the mixture was stirred for additional 2 h at 130° C. At RT, water and ether were added, and the organic phase was washed with water, dried over Na2SO4. Column chromatography on silica gel with CH2Cl2/MeOH 19:1 yielded 75 mg (20%) Allyl-{4-[1-(4-chloro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-amine as orange oil, MS: 369 (MH+, 1Cl).

reactant | Allyl-[4-(2,3-dihydro-1H-indol-5-yloxy)-butyl]-methyl-amine | 1 mmol, 260 mg | C(C=C)N(C)CCCCOC=1C=C2CCNC2=CC1 | C16H24N2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloro-4-iodobenzene | 2 mmol, 480 mg | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | water | O | H2O
solvent | DMSO | 2.5 ml | CS(=O)C | C2H6OS
catalyst | CuI | 0.1 mmol, 19.1 mg | [Cu]I
solvent | ether | CCOCC | C4H10O
product | Allyl-{4-[1-(4-chloro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-amine | 75 mg, 20% | C(C=C)N(C)CCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)Cl | C22H25ClN2O
